US05977178
Triethylphoshonoacetate (1.96 mL, 9.8 mmol) was dissolved in tetrahydrofuran (30 mL). Potassium tert-butoxide (1.10 g, 9.8 mmol) was added. The solution was stirred for 40 min at room temperature. A solution of 3-(tert-butoxycarbonylamino)-3-methylbutanal (1.10 g, 5.5 mmol) in Tetrahydrofuran (6 mL) was added. The solution was stirred at room temperature. for 75 min. It was diluted with ethyl acetate (100 mL) and 1N hydrochloric acid (100 mL). The phases were separated. The aqueous phase was extracted with ethyl acetate (2×50 mL). The combined organic phases were washed with saturated sodium hydrogen carbonate solution (60 mL) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by column chromatography on silica (90 g) with ethyl acetate/hepatane (1:4) to give 1.27 g of ethyl (2E)-5-(tert-butoxycarbonylamino)-5-methylhex-2-enoate.

reactant | Potassium tert-butoxide | 9.8 mmol, 1.10 g | CC(C)([O-])C.[K+]
reactant | 3-(tert-butoxycarbonylamino)-3-methylbutanal | 5.5 mmol, 1.10 g | C(C)(C)(C)OC(=O)NC(CC=O)(C)C | C10H19NO3
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | Tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 1N, 100 mL | Cl | ClH
product | ethyl (2E)-5-(tert-butoxycarbonylamino)-5-methylhex-2-enoate | 1.27 g | C(C)(C)(C)OC(=O)NC(C/C=C/C(=O)OCC)(C)C | C14H25NO4
